US07417047B2
Preparation of 2-Amino-5-[1-ethyl-5-(methoxymethyl)-1H-pyrrol-3-yl]-5-[3-(2-fluoropyridin-3-yl)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one
A solution of 4-{2-amino-4-[3-(2-fluoropyridin-3-yl)phenyl]-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl}-1-ethyl-1H-pyrrole-2-carbaldehyde in dry ethanol was treated with 2 equivalents of sodium borohydride at 0° C., allowed to come to room temperature, quenched with water and evaporated to dryness under reduced pressure. The resultant residue is dispersed in water and extracted with ethyl acetate. The extracts are combined, dried over MgSO4 and concentrated in vacuo. The resultant residue was dissolved in 0.5M methanolic HCl, stirred overnight and evaporated to dryness under reduced pressure. This residue was dissolved in chloroform, washed with dilute sodium bicarbonate, dried over sodium sulfate and concentrated in vacuo. The resultant residue was purified using flash chromatography and was crystallized from ethylacetate/hexane to give the title compound as a solid, mp 154-157° C., identfied by NMR and mass spectral analyses.

reactant | 4-{2-amino-4-[3-(2-fluoropyridin-3-yl)phenyl]-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl}-1-ethyl-1H-pyrrole-2-carbaldehyde | NC=1N(C(C(N1)(C1=CC(=CC=C1)C=1C(=NC=CC1)F)C=1C=C(N(C1)CC)C=O)=O)C | C22H20FN5O2
reactant | sodium borohydride | 2 equivalents | [BH4-].[Na+]
reactant | ethanol | C(C)O | C2H6O
product | 2-Amino-5-[1-ethyl-5-(methoxymethyl)-1H-pyrrol-3-yl]-5-[3-(2-fluoropyridin-3-yl)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one | NC1=NC(C(N1C)=O)(C1=CC(=CC=C1)C=1C(=NC=CC1)F)C1=CN(C(=C1)COC)CC | C23H24FN5O2
